US08455488B2
Synthesis of 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methyl-4-(naphthalen-1-ylmethyl)semicarbazide (Compound II-60)
According to the procedure described in the synthesis method of Compound II-15, 2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-8) 118 mg (0.41 mmol) was coupled with (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide (Compound IV-12) 100 mg (0.27 mmol) to obtain the title compound.

reactant | 2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetic acid | 0.41 mmol, 118 mg | CN(NC(NCC1=CC=CC2=CC=CC=C12)=O)CC(=O)O | C15H17N3O3
reactant | (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide | 0.27 mmol, 100 mg | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2)C | C19H28N2O3S
product | 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methyl-4-(naphthalen-1-ylmethyl)semicarbazide | S1C2=C(C(=C1)CN(C([C@H](C)NC(CN(NC(=O)NCC1=CC=CC3=CC=CC=C13)C)=O)=O)[C@H](C(OCC)OCC)C)C=CC=C2 | C34H43N5O5S
